US05128448
The mixture of (E)-3-tricyclo[3.3.1.1-3,7]dec-2-yl-2-propenoic acid ethyl ester and (Z)-3-tricyclo[3.3.1.1-3,7]dec-2-yl-2-propenoic acid ethyl ester (0.018 mol, 4.23 g), dissolved in ethyl acetate (500 mL) was hydrogenated over 10% Pd/C catalyst (450 mg), (1 atm H2) with vigorous stirring until the uptake of hydrogen ceased (1 h). The reaction mixture was filtered through a pad of celite, and the filtrate dried (Na2SO4) and concentrated in vacuo to provide tricyclo[3.3.1.1-3,7]decane-2-propanoic acid ethyl ester as a colorless oil.

reactant | (E)-3-tricyclo[3.3.1.1-3,7]dec-2-yl-2-propenoic acid ethyl ester | C(C)OC(\C=C\C1C2CC3CC(CC1C3)C2)=O | C15H22O2
reactant | (Z)-3-tricyclo[3.3.1.1-3,7]dec-2-yl-2-propenoic acid ethyl ester | 0.018 mol, 4.23 g | C(C)OC(\C=C/C1C2CC3CC(CC1C3)C2)=O | C15H22O2
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 450 mg | [Pd] | Pd
product | tricyclo[3.3.1.1-3,7]decane-2-propanoic acid ethyl ester | C(C)OC(CCC1C2CC3CC(CC1C3)C2)=O | C15H24O2
